US05223523
Preparation of 5-Phenyl-3-(phenylamino)-2-thioxo-4-oxazolidinone
A stirred solution of potassium tert.-butoxide (11.22 g, 0.1 mole) in tetrahydrofuran (100 ml), held at 0° C. to -5° C., was treated portionwise with a solution of methyl mandelate (16.62 g, 0.1 mole) in tetrahydrofuran (70 ml), providing an orange-red solution. After 4 minutes carbon disulfide (6.04 ml, 0.1 mole) was added. After 5 minutes at 0° C. to -5° C., the orange solution was cooled to -30° C. and treated with ethyl chloroformate (9.5 ml, 0.1 mole). After 2 minutes the solution was warmed to -10° C. After 5 minutes at -10° C., the solution was cooled to -30° C. and treated with 97% phenylhydrazine (10.1 ml, 0.1 mole). The yellow solution was warmed to 25° C., and after 10 minutes the mixture was evaporated under reduced pressure to a turbid oil. The oil was mixed with water and 1-chlorobutane, the layers were separated, and the organic solution was washed with 1N HCl, water (twice), and saturated sodium bicarbonate solution. The dried (magnesium sulfate) solution was evaporated under reduced pressure to a yellow-orange oil, and the oil was dissolved in chloroform. A silica-gel filtration of the chloroform solution followed by evaporation of the filtrate under reduced pressure provided a green oil which began to solidify. Further purification was accomplished by crystallization from 1-chlorobutane. This procedure provided the product as 9.9 g (35% of theoretical) of a white solid, m.p. 140°-141° C. The infrared spectrum (Nujol mull) showed the characteristic absorption at 3295 cm-1 (N-H) and 1760 cm-1 (imide C=O).

reactant | potassium tert.-butoxide | 0.1 mole, 11.22 g | CC(C)([O-])C.[K+]
reactant | methyl mandelate | 0.1 mole, 16.62 g | C(C(O)C1=CC=CC=C1)(=O)OC | C9H10O3
reactant | carbon disulfide | 0.1 mole, 6.04 ml | C(=S)=S | CS2
reactant | ethyl chloroformate | 0.1 mole, 9.5 ml | ClC(=O)OCC | C3H5ClO2
reactant | phenylhydrazine | 0.1 mole, 10.1 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 5-Phenyl-3-(phenylamino)-2-thioxo-4-oxazolidinone | C1(=CC=CC=C1)C1C(N(C(O1)=S)NC1=CC=CC=C1)=O | C15H12N2O2S
